US06900215B2
A 3 l round-bottomed flask fitted with a mechanical stirrer under an atmosphere of N2 was charged with triethyl orthoformate (304 ml, 1.83 mol) and CH2Cl2 (1.30 l). The solution was cooled to −65° C. and BF3.Et2O (255 ml, 2.01 mol) was added over 30 min to provide a yellow solution. After an additional 15 min, the cold bath was removed and the flask contents were allowed to warm to 0° C. After ageing at 0° C. for 45 min, the mixture was cooled to −60° C. to provide a thin white slurry. A solution of 3-acetoxy-3-methyl-2-butanone (131.55 g, 0.912 mol) and CH2Cl2 (100 ml) was added over 17 min. After a 40 min age at −65° C., diisopropylethylamine (404 ml, 2.32 mol) was added over 30 min maintaining an internal temperature below −63° C. After an additional 45 min at −65° C., the mixture was warmed to room temperature over 45 min and aged at that temperature for 5 h. The reaction mixture was poured onto saturated aqueous NaHCO3 (800 ml) and stirred for 15 min. The layers were partitioned and the organic phase was washed with 1M H2SO4 at 5° C. (2×800 ml), water at 5° C. (2×800 ml) and then dried over Na2SO4. The solvent was removed under diminished pressure to provide 4-acetoxy-1,1-diethoxy-4-methyl-3-butanone as an oil (270 g, 57 wt % pure) which was used without further purification in the subsequent steps. An analytical sample was prepared by HPLC on a Zorbax C-8 preparative column with gradient elution from 30% acetonitrile, 70% 0.1% H3PO4/H2O to 70% acetonitrile, 30% 0.1% H3PO4/H2O over 20 min: 1H NMR (CDCl3, 400 MHz) δ 4.95 (1H, t, J 5.6), 3.69 (2H, m), 3.53 (2H, m), 2.79 (2H, d, J 5.6), 2.07 (3H, s), 1.47 (6H, s), 1.18 (6H, t, J 6.8); 13C NMR (CDCl3, 100.61 MHz) δ 205.7, 170.4, 100.8, 83.7, 63.2, 41.4, 22.9, 21.1, 15.1.

reactant | triethyl orthoformate | 1.83 mol, 304 ml | C(OCC)(OCC)OCC | C7H16O3
reactant | BF3.Et2O | 2.01 mol, 255 ml | B(F)(F)F.CCOCC
reactant | 3-acetoxy-3-methyl-2-butanone | 0.912 mol, 131.55 g | C(C)(=O)OC(C(C)=O)(C)C | C7H12O3
reactant | diisopropylethylamine | 2.32 mol, 404 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | NaHCO3 | 800 ml | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1.30 l | C(Cl)Cl | CH2Cl2
product | 4-acetoxy-1,1-diethoxy-4-methyl-3-butanone | C(C)(=O)OC(C(CC(OCC)OCC)=O)C | C11H20O5
